US06153608
1-[(4-Bromo-5-isoquinolinyl)sulfonyl]-hexahydro-1H-1,4-diazepine dihydrochloride
To a solution of 1.5 g of homopiperazine in methylene chloride were added triethylamine and 4-bromo-5-chlorosulfonylisoquinoline, and the mixture was stirred at room temperature and after-treated. The crude product was purified by silica gel column chromatography (chloroform/methanol=10/1) and further treated as in Example 1 to provide 0.55 g of the objective compound (white crystals).

reactant | homopiperazine | 1.5 g | N1CCNCCC1 | C5H12N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-5-chlorosulfonylisoquinoline | BrC1=CN=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H5BrClNO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[(4-Bromo-5-isoquinolinyl)sulfonyl]-hexahydro-1H-1,4-diazepine dihydrochloride | 0.55 g | Cl.Cl.BrC1=CN=CC2=CC=CC(=C12)S(=O)(=O)N1CCNCCC1 | InChI=1S/C14H16BrN3O2S.2ClH/c15-12-10-17-9-11-3-1-4-13(14(11)12)21(19,20)18-7-2-5-16-6-8-18;;/h1,3-4,9-10,16H,2,5-8H2;2*1H
